US04125612
While stirring, reflux a solution of 90g of anhydrous piperazine, 52g of 4'-chloro-4-(1-chloroethyl)[1,1']biphenyl and 700 ml of anhydrous benzene for 24 hours. Add 300 ml. of water to the reaction mixture, separate the benzene layer and extract with dilute hydrochloric acid. Separate and filter the acidic aqueous phase, basify the filtrate with dilute sodium hydroxide and extract with methylene chloride. Dry the organic extract, concentrate and triturate the resulting solid residue with petroleum ether. Filter and recrystallize the product from methanol to yield 1-[1-(4'-chloro[1,1']biphenyl-4-yl)ethyl] piperazine m.p. 164°-165° C. The dihydrochloride salt (from methanol as hemihydrate) has a m.p. 263°-264°.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 4'-chloro-4-(1-chloroethyl)[1,1']biphenyl | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)Cl | C14H12Cl2
solvent | benzene | 700 ml | C1=CC=CC=C1 | C6H6
product | 1-[1-(4'-chloro[1,1']biphenyl-4-yl)ethyl] piperazine | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)N1CCNCC1 | C18H21ClN2
